US06624159B2
N-(4-Chlorobenzyl)-9-iodo-3-methyl-7-oxo-2,3-dihydro-7H-[1,3,4]oxadiazino[6,5,4-ij]quinoline-6-carboxamide [H.4]
A solution of 9-iodo-3-methyl-7-oxo-2,3-dihydro-7H-[1,3,4]oxadiazino[6,5,4-ij]quinoline-6-carboxylic acid (Preparation 31, 0.900 g) in tetrahydrofuran (25 mL) is refluxed with 1,1′-carbonyldiimidazole (0.631 g) for 5 h. The reaction mixture is cooled to room temperature and treated with 4-chlorobenzylamine (0.828 g). The reaction mixture is diluted with ether (75 mL), filtered, and the filtrate is concentrated at reduced pressure. The crude product is purified by chromatography, using 75 g of silica gel packed and eluted with EtOAc/CH2Cl2/heptane (1/4/5), to afford a 57% yield of the title compound. Physical characteristics: 1H NMR (DMSO-d6) δ10.15, 8.67, 8.12, 7.75, 7.37, 5.29, 4.54, 2.98; MS (EI) m/z 495 (M+); HRMS (FAB) m/z 495.9935 (C19H15ClIN3O3+H). Anal. Found: C, 45.97; H, 3.14; N, 8.39.

reactant | 9-iodo-3-methyl-7-oxo-2,3-dihydro-7H-[1,3,4]oxadiazino[6,5,4-ij]quinoline-6-carboxylic acid | 0.900 g | IC=1C=C2C(C(=CN3C2=C(C1)OCN3C)C(=O)O)=O | C12H9IN2O4
reactant | 1,1′-carbonyldiimidazole | 0.631 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorobenzylamine | 0.828 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ether | 75 mL | CCOCC | C4H10O
product | N-(4-Chlorobenzyl)-9-iodo-3-methyl-7-oxo-2,3-dihydro-7H-[1,3,4]oxadiazino[6,5,4-ij]quinoline-6-carboxamide | 57% yield | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)I)OCN3C)C=C1 | C19H15ClIN3O3
